US04210658
N-Methyl-N'[2-(5-methyl-4-imidazolylmethylthio)ethyl]-amidinosulphonic acid
A solution of 1.43 g (0.0085 mole) of 2-(5-methyl-4-imidazolylmethylthio)ethylamine in dry acetonitrile (150 ml) was added dropwise, with stirring, to a solution of 1.43 g (0.0084 mole) of 1-methylthio-1-methyliminomethanesulphonate in dry acetonitrile (150 ml) at 50°, giving an immediate white precipitation. After further warming at 70° for one hour, the mixture was stripped to dryness, dissolved in methanol and absorbed onto silica gel. Chromatography on a column of silica gel was performed with ethylacetate/methanol (20:1), and the crude product recrystallised from isopropanol to give the title compound, 0.46 g.m.p. 162.5°-163.5° as an almost colourless crystalline solid.

reactant | 2-(5-methyl-4-imidazolylmethylthio)ethylamine | 0.0085 mole, 1.43 g | CC1=C(N=CN1)CSCCN | C7H13N3S
reactant | 1-methylthio-1-methyliminomethanesulphonate | 0.0084 mole, 1.43 g | CSC(S(=O)(=O)[O-])=NC
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-Methyl-N'[2-(5-methyl-4-imidazolylmethylthio)ethyl]-amidinosulphonic acid | CNC(=NCCSCC=1N=CNC1C)S(=O)(=O)O | C9H16N4O3S2
